US07923561B2
Rac-N2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-N5-(1H-[1,2,3]triazol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=401.5 (M+H+), was prepared in accordance with the general method of example 43 from 5-nitro-2-chloroquinoline, rac-8-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine (CAS 535935-61-6) and 1H-1,2,3-triazole-4-carbaldehyde.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | rac-8-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine | COC=1C=CC=C2CCCC(C12)N | C11H15NO
reactant | 1H-1,2,3-triazole-4-carbaldehyde | N1N=NC(=C1)C=O | C3H3N3O
product | Rac-N2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-N5-(1H-[1,2,3]triazol-4-ylmethyl)-quinoline-2,5-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC=2C=CC=C(C2C=C1)NCC=1N=NNC1 | C23H24N6O
